US08648099B2
b) 2-(2,2,2-Trifluoro-ethoxy)-3′,4′,5′,6′-tetrahydro-2′H-[3,4]bipyridinyl-5,1′-dicarboxylic acid 1′-tert-butyl ester
In a 25 mL round-bottomed flask, the above prepared 2-(2,2,2-trifluoro-ethoxy)-3′,4′,5′,6′-tetrahydro-2′H-[3,4]bipyridinyl-5,1′-dicarboxylic acid 1′-tert-butyl ester 5-methyl ester (1.266 g, 2.42 mmol, Eq: 1.00) was combined with tetrahydrofuran (7 mL) and water (3.5 mL) to give a colorless solution. Lithium hydroxide (145 mg, 6.05 mmol, Eq: 2.5) was added and the reaction mixture was stirred at 40° C. for 3 h when TLC indicated the absence of starting material. Work up: 10 mL H2O and 10 mL sat NH4Cl were added and the reaction mixture was extracted with AcOEt (2×50 ml). The organic layers were washed with H2O/NaCl solution, combined, dried over Na2SO4 and concentrated in vacuo. Crystallization from EtOAc and heptane afforded 800 mg of the title compound as white solid; MS (EI) 403.6 (M−H)−.

reactant | 2-(2,2,2-trifluoro-ethoxy)-3′,4′,5′,6′-tetrahydro-2′H-[3,4]bipyridinyl-5,1′-dicarboxylic acid 1′-tert-butyl ester 5-methyl ester | 2.42 mmol, 1.266 g | COC(=O)C=1C=C(C(=NC1)OCC(F)(F)F)C1CCN(CC1)C(=O)OC(C)(C)C | C19H25F3N2O5
reactant | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
reactant | Lithium hydroxide | 6.05 mmol, 145 mg | [OH-].[Li+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | H2O | 10 mL | O | H2O
solvent | water | 3.5 mL | O | H2O
product | 2-(2,2,2-Trifluoro-ethoxy)-3′,4′,5′,6′-tetrahydro-2′H-[3,4]bipyridinyl-5,1′-dicarboxylic acid 1′-tert-butyl ester | 800 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1C(=NC=C(C1)C(=O)O)OCC(F)(F)F | C18H23F3N2O5
